US04022779
(a) 6-Chloro-4[(1,1-dimethylethyl)amino]-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester
55.8 g. of 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester (0.2 mol.) are dissolved in 300 ml. of alcohol and 25 g. of triethylamine. At reflux temperature, 14.6 g. of tert. butylamine are slowly added dropwise and the mixture is heated with stirring for an additional 30 minutes. The solvent is distilled off in vacuo and the residue is dissolved in benzene. The precipitated triethylamine hydrochloride is filtered off and the benzene layer is evaporated to dryness. The remaining oil, 6-chloro-4-[(1,1-dimethylethyl)amino]-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester crystallizes with methanol, yield 38.4 g. (61%), m.p. 40°-43°.

reactant | 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | 0.2 mol | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])Cl)C | C9H8Cl2N2O4
reactant | tert. butylamine | C(C)(C)(C)N | C4H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-Chloro-4[(1,1-dimethylethyl)amino]-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1NC(C)(C)C)[N+](=O)[O-])Cl)C | C13H18ClN3O4
